US06984741B2
13.0 g of methyl 2-(1-methoxycarbonylpentoxy)benzoate were dissolved in methanol in a 250 ml flask, and a solution of 9.1 g of sodium hydroxide in 40 ml of water was added. The reaction mixture was stirred at 40° C. for one hour, during which a precipitate formed. This was dissolved after cooling to room temperature by adding further methanol and sodium hydroxide solution. The reaction mixture was washed with dichloromethane, and the aqueous phase was subsequently adjusted to pH 0 with concentrated hydrochloric acid while cooling in ice. A colourless solid precipitated during this and was filtered off and dried. 10.1 g (87% of theory) of 2-(1-carboxypentoxy)benzoic acid were obtained in this way.

reactant | methyl 2-(1-methoxycarbonylpentoxy)benzoate | 13.0 g | COC(=O)C(CCCC)OC1=C(C(=O)OC)C=CC=C1 | C15H20O5
reactant | sodium hydroxide | 9.1 g | [OH-].[Na+]
solvent | methanol | CO | CH4O
solvent | water | 40 ml | O | H2O
product | 2-(1-carboxypentoxy)benzoic acid | 10.1 g, 87% | C(=O)(O)C(CCCC)OC1=C(C(=O)O)C=CC=C1 | C13H16O5
